US04379788
(a) 2-[4-(3-Chloro-propoxy)-phenyl]-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one
2.8 gm (10 mmols) of 2-(4-hydroxy-phenyl)-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one were dissolved in 20 ml of dimethylsulfoxide, and the solution was mixed, while stirring, with 1.35 gm (10 mmols+20%) of potassium tert. butylate. Subsequently, 2.8 ml of 1-bromo-3-chloropropane were added, and the mixture was stirred at room temperature until the reaction was complete. The reaction mixture was then poured into ice water, the aqueous mixture was extracted with ethyl acetate, and the combined organic extracts were evaporated in vacuo after drying over sodium sulfate. The resulting oil, which solidified into crystals, was recrystallized from acetone/ether.

reactant | 2-(4-hydroxy-phenyl)-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one | 10 mmols, 2.8 gm | OC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1C)=O)OC | C16H14N2O3
reactant | 1-bromo-3-chloropropane | 2.8 ml | BrCCCCl | C3H6BrCl
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-[4-(3-Chloro-propoxy)-phenyl]-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one | ClCCCOC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1C)=O)OC | C19H19ClN2O3
